US08865698B2
(R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-5-methylpyrazine-2-carboxamide
To a mixture of (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Example 6, Step A; 50 mg, 0.17 mmol, prepared as described in a previous example), 5-methylpyrazine-2-carboxylic acid (46 mg, 0.34 mmol), and HATU (128 mg, 0.34 mmol) was added 0.7 mL DMF to make a solution. After cooling in an ice bath for 10 minutes, DIEA (0.088 mL, 0.5 mmol) was added to the reaction drop-wise. The reaction was allowed to warm up to ambient temperature and stirred for 2 hours. The reaction mixture was directly filtered, rinsing with acetonitrile and then with ether, to provide the final product as a beige solid (44 mg, 63% yield). MS (apci) m/z=418.2 (M+H).

reactant | (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H16FN5
reactant | 5-methylpyrazine-2-carboxylic acid | 0.34 mmol, 46 mg | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | HATU | 0.34 mmol, 128 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.5 mmol, 0.088 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ether | CCOCC | C4H10O
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-5-methylpyrazine-2-carboxamide | 44 mg, 63% yield | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)C2=NC=C(N=C2)C | C22H20FN7O
